US05910491
7-Acetyl Camptothecin
Camptothecin (5 g, 14.36 mmols) was dissolved in trifluoroacetic acid: acetic acid (60 mL; ratio, 1:1) and added deionized water (15 mL) and freshly distilled acetaldehyde (20 mL; excess) followed by dropwise addition of concentrated sulfuric acid (5 mL) at 0° C. using an ice bath over a period of 15 min. To the above stirred reaction medium is then introduced 70% aqueous solution of t-butylhydroperoxide (3 mL) followed by iron sulfate heptahydrate (7.8 g, 28 mmol) in 1 mL water. The reaction mixture was then stirred at 0° C. to 25° C. for an additional 24 hours. The reaction mixture was then diluted with water and extracted with diethyl ether (500 mL×1), chloroform (250 mL×1) and then using n-butanol (250 mL×4). The organic portions were extracted out using diethyl ether and chloroform and discarded as fractions lacking desired product, while the n-butanol portion was concentrated to dryness at 40° C. and the crude product was recrystallized from a 90% chloroform-methanol mixture to furnish 4.2 gm of the title compound (75% yield).

reactant | Camptothecin | 14.36 mmols, 5 g | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=CC=CC5=NC4C3=C2)O | C20H16N2O4
reactant | acetaldehyde | 20 mL | C(C)=O | C2H4O
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | t-butylhydroperoxide | 3 mL | C(C)(C)(C)OO | C4H10O2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 1 mL | O | H2O
catalyst | iron sulfate heptahydrate | 28 mmol, 7.8 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
solvent | water | 15 mL | O | H2O
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 7-Acetyl Camptothecin | 4.2 gm, 75% yield | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C=5C=CC=CC5N=C4C3=C2)C(=O)C)O | C22H18N2O5
